US08008303B2
2′-Methoxy-5′-(4-morpholin-4-yl-phenylsulfamoyl)-biphenyl-4-carboxylic acid
A mixture of 3-bromo-4-methoxy-N-(4-morpholin-4-yl-phenyl)-benzenesulfonamide (460 mg) and 4-carboxy-phenyl boronic acid (196 mg) in saturated sodium bicarbonate solution (4 ml) and DME (8 ml) was heated to reflux in the presence of tetrakis(triphenylphosphine)palladium0 for 16 h. The mixture was allowed to cool and was evaporated. The residue was then suspended in water and 2M HCl added until the effervescence ceased. The resulting light grey solid was collected and dried (490 mg)

reactant | 3-bromo-4-methoxy-N-(4-morpholin-4-yl-phenyl)-benzenesulfonamide | 460 mg | BrC=1C=C(C=CC1OC)S(=O)(=O)NC1=CC=C(C=C1)N1CCOCC1 | C17H19BrN2O4S
reactant | 4-carboxy-phenyl boronic acid | 196 mg | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
solvent | sodium bicarbonate | 4 ml | C([O-])(O)=O.[Na+]
solvent | DME | 8 ml | COCCOC | C4H10O2
product | 2′-Methoxy-5′-(4-morpholin-4-yl-phenylsulfamoyl)-biphenyl-4-carboxylic acid | COC1=C(C=C(C=C1)S(NC1=CC=C(C=C1)N1CCOCC1)(=O)=O)C1=CC=C(C=C1)C(=O)O | C24H24N2O6S
